US04689426
450 ml of 0.1M phosphate buffer (pH8) was added to a solution of 734 mg (2.0 mmol) of (4R)-2-chloro-4-(1-octenyl)-5-(6-methoxy-carbonylhexylidene)-2-cyclopentenone in 45 ml of acetone, and then 45 ml of an aqueous solution of pig liver esterase was added. The mixture was stirred at 30°-35° C. for 100 hours. 0.1N hydrochloric acid was added to the reaction mixture to adjust its pH to 4, and then the mixture was saturated with ammonium sulfate. It was filtered, and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The dried product was filtered, concentrated and subjected to silica gel column chromatography (silica gel, 50 mg; eluent, hexane:acetone:acetic acid=10:2:0.05→5:2:0.003) to give 480 mg (yield 68%) of (4R)-2-chloro-4-(1-octenyl)-5-(6-carboxyhexylidene)-2-cyclopentenone.

reactant | phosphate | 0.1M, 450 ml, pH8 | P(=O)([O-])([O-])[O-]
reactant | (4R)-2-chloro-4-(1-octenyl)-5-(6-methoxy-carbonylhexylidene)-2-cyclopentenone | 2.0 mmol, 734 mg | ClC=1C(C([C@@H](C1)C=CCCCCCC)=CCCCCC(OC)=C=O)=O | C21H29ClO3
reactant | hydrochloric acid | 0.1N | Cl | ClH
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | (4R)-2-chloro-4-(1-octenyl)-5-(6-carboxyhexylidene)-2-cyclopentenone | 480 mg, yield 68% | ClC=1C(C([C@@H](C1)C=CCCCCCC)=CCCCCCC(=O)O)=O | C20H29ClO3
